US06723722B1
A solution of 1-amino-4-benzyloxycarbonyl-2-piperazinone (2.49 g) and 1-(tert-butoxycarbonyl)-4-piperidone (1.99 g) in ethanol (40 ml) was dehydrated using a Soxlet extractor packed with molecular sieves 4A while refluxing for 15 hours. The reaction mixture was concentrated to obtain a crude 4-benzyloxycarbonyl-1-[1-(tert-butoxycarbonyl)-4-piperidinylideneamino]-2-piperazinone as an oil.

reactant | 1-amino-4-benzyloxycarbonyl-2-piperazinone | 2.49 g | NN1C(CN(CC1)C(=O)OCC1=CC=CC=C1)=O | C12H15N3O3
reactant | 1-(tert-butoxycarbonyl)-4-piperidone | 1.99 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-benzyloxycarbonyl-1-[1-(tert-butoxycarbonyl)-4-piperidinylideneamino]-2-piperazinone | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)N=C1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H30N4O5
